US04234590
A solution of acetic anhydride (52 mL), 1,1,3,3-tetramethoxypropane (26.4 g, 0.16 mL), trifluoromethylthioacetonitrile (14.5 g, 0.1 mol) and ZnCl2 (1 g) was heated at reflux. After 18 hours, the mixture was distilled up to 100° at atmospheric pressure. The residue was then cooled to 25° C. and filtered. The clear solution was distilled to yield 3.5 g of 4-cyano-4-trifluoromethylthio-3-butenealdehydedimethylacetal (bp 65°-93° C. at 18 mm) and 5.3 g of 1-cyano-1-trifluoromethylthio-4-methoxy-1,3-butadiene (bp 83°-105° C. at 0.5 mm). This material was combined and used in the next step without further purification.

reactant | acetic anhydride | 52 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1,1,3,3-tetramethoxypropane | 0.16 mL, 26.4 g | COC(CC(OC)OC)OC | C7H16O4
reactant | trifluoromethylthioacetonitrile | 0.1 mol, 14.5 g | FC(SCC#N)(F)F | C3H2F3NS
catalyst | ZnCl2 | 1 g | [Cl-].[Cl-].[Zn+2]
product | 1-cyano-1-trifluoromethylthio-4-methoxy-1,3-butadiene | 5.3 g | C(#N)C(=CC=COC)SC(F)(F)F | C7H6F3NOS
